US09172045B2
In a stream of nitrogen, a 100 mL three-necked flask was charged with 0.53 g (13.4 mmol) of sodium hydride (oily, 60%). 15 mL of dehydrated dimethylformamide was added to the content, and the mixture was stirred. To the thus-obtained slurry, a solution of 2.2 g (11.2 mmol) of 4-chlorocarbazole in 15 mL of dehydrated dimethylformamide was dropwise added, and the mixture was stirred for 30 minutes. To the thus-obtained reaction mixture, a solution of 3.0 g (11.2 mmol) of 2-chloro-4,6-diphenyl-1,3,5-triazine in 40 mL of dehydrated dimethylformamide was dropwise added. The reaction mixture was stirred at room temperature for 2 hours, and, 10 mL of methanol and then 100 mL of pure water were added to terminate the reaction. A white powder deposited upon the addition of pure water was collected, and washed with pure water and then with ethanol. The thus-obtained powder was recrystallized from o-xylene to give 3.1 g (7.2 mmol) of 4-chloro-9-(4,6-diphenyl-1,3,5-triazin-2-yl)carbazole as a white crystal (yield: 64%).

reactant | sodium hydride | 13.4 mmol, 0.53 g | [H-].[Na+]
reactant | 4-chlorocarbazole | 11.2 mmol, 2.2 g | ClC1=CC=CC=2NC3=CC=CC=C3C12 | C12H8ClN
reactant | 2-chloro-4,6-diphenyl-1,3,5-triazine | 11.2 mmol, 3.0 g | ClC1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C15H10ClN3
reactant | methanol | 10 mL | CO | CH4O
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | water | 100 mL | O | H2O
product | 4-chloro-9-(4,6-diphenyl-1,3,5-triazin-2-yl)carbazole | 7.2 mmol, 3.1 g, yield: 64% | ClC1=CC=CC=2N(C3=CC=CC=C3C12)C1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H17ClN4
